US04451471
3.3 g of 4,5-bis-(p-methoxyphenyl)-thiazoline-2-thione are dissolved in 50 ml of hexamethylphosphoric acid triamide, the solution is cooled to 5° and converted into the sodium salt under nitrogen with sodium hydride (0.5 g of a 50% strength suspension in mineral oil, de-oiled with hexane). The product is allowed to warm to room temperature, 2.0 g of 2-bromoformylacetic acid ethyl ester are added dropwise and the mixture is stirred at 25° for 1 hour, poured into 750 ml of ice-water and taken up in diethyl ether. The ethereal phase is washed with water, dried over magnesium sulphate and concentrated to dryness by evaporation. 2-[4,5-bis-(p-methoxyphenyl)-thiazol-2-ylthio]-2-formylacetic acid ethyl ester is obtained, which can be used without further purification.

reactant | 4,5-bis-(p-methoxyphenyl)-thiazoline-2-thione | 3.3 g | COC1=CC=C(C=C1)C1=NC(SC1C1=CC=C(C=C1)OC)=S | C17H15NO2S2
reactant | sodium | [Na] | Na
reactant | sodium hydride | [H-].[Na+]
reactant | 2-bromoformylacetic acid ethyl ester | 2.0 g | C(C)OC(CC(=O)Br)=O | C5H7BrO3
solvent | hexamethylphosphoric acid triamide | 50 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 2-[4,5-bis-(p-methoxyphenyl)-thiazol-2-ylthio]-2-formylacetic acid ethyl ester | C(C)OC(C(C=O)SC=1SC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)=O | C22H21NO5S2
